US05292879
A mixture of 61.5 g (0.164M) of 3,5-diiodonitrobenzene and 111.1 g (0.4924M) of stannous chloride in 900 mL of ethanol was heated to reflux 1.5 hrs under nitrogen. The reaction mixture was cooled and most of the solvent was removed in vacuo. The residue was partitioned between ethyl acetate and excess ice-cold 5N sodium hydroxide and ice. The organic phase was separated, washed with sat'd sodium chloride solution, and dried over anhyd. magnesium sulfate. Solvent removal afforded a crude oil which was purified on silica gel using 8:1:1 mixture of hexane:methylene chloride:ethyl acetate to give 35 g of 3,5-diiodoaniline as a light tan colored solid.

reactant | 3,5-diiodonitrobenzene | 0.164M, 61.5 g | IC=1C=C(C=C(C1)I)[N+](=O)[O-] | C6H3I2NO2
solvent | ethanol | 900 mL | C(C)O | C2H6O
product | 3,5-diiodoaniline | 35 g | IC=1C=C(N)C=C(C1)I | C6H5I2N
